US07169925B2
Step E1: 3-(2-Pyridinylamino)-1H-indole-2-carboxylic acid, ethyl ester
Heat a mixture of ethyl 3-aminoindole-2-carboxylate (250 mg, 1.2 mmol) and 2-bromopyridine (1.0 mL, 10 mmol) at 150° C. for 1 h. Cool the reaction and partition between aqueous ammonium chloride and ethyl acetate. Separate the organic layer and concentrate to afford a crude mixture. Flash chromatograph the mixture on silica gel eluting with 25% ethyl acetate/dichloromethane to afford 50 mg of the title compound: MS 282(M+H).

reactant | ethyl 3-aminoindole-2-carboxylate | 1.2 mmol, 250 mg | NC1=C(NC2=CC=CC=C12)C(=O)OCC | C11H12N2O2
reactant | 2-bromopyridine | 10 mmol, 1.0 mL | BrC1=NC=CC=C1 | C5H4BrN
solvent | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | 3-(2-Pyridinylamino)-1H-indole-2-carboxylic acid, ethyl ester | 50 mg | N1=C(C=CC=C1)NC1=C(NC2=CC=CC=C12)C(=O)OCC | C16H15N3O2
